US06281227B1
G. 7-Methoxynaphthalene-2-sulfonic acid {1-[2-(4-amino-3-nitrophenyl)-ethyl]-2-oxopyrrolidin-3-(S)-yl}-amide
The title compound is prepared in CH2Cl2 instead of CH3CN as described in EXAMPLE 1, Part K using 3-(S)-amino-1-[2-(4-amino-3-nitrophenyl)-ethyl]-pyrrolidin-2-one in place of 7-(3-(S)-amino-2-oxopyrrolidin-1-ylmethyl)-1-chloro-isoquinoline hydrochloride and 7-methoxynaphthalene-2-sulfonyl chloride as prepared in EXAMPLE 1, Part J. After similar workup, the organic phase is concentrated in vacuo to afford the title compound as a pale yellow solid which is used as is in the subsequent step.

reactant | 3-(S)-amino-1-[2-(4-amino-3-nitrophenyl)-ethyl]-pyrrolidin-2-one | N[C@@H]1C(N(CC1)CCC1=CC(=C(C=C1)N)[N+](=O)[O-])=O | C12H16N4O3
reactant | 7-methoxynaphthalene-2-sulfonyl chloride | COC1=CC=C2C=CC(=CC2=C1)S(=O)(=O)Cl | C11H9ClO3S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-Methoxynaphthalene-2-sulfonic acid {1-[2-(4-amino-3-nitrophenyl)-ethyl]-2-oxopyrrolidin-3-(S)-yl}-amide | NC1=C(C=C(C=C1)CCN1C([C@H](CC1)NS(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)=O)[N+](=O)[O-] | C23H24N4O6S
